US08748012B2
A mixture solution of dibenzo[b,d]furan-4-yl boronic acid (2.5 g, 11.79 mmol), bis(3-bromo-phenyl)diphenylsilane (14.57 g, 29.5 mmol), Pd(PPh3)4 (0.136 g, 0.118 mmol) and K2CO3 (3.26 g, 23.58 mmol) in 150 mL of toluene and 50 mL water was refluxed under nitrogen overnight. After cooling to room temperature, the organic phase was separated and evaporated to dryness. The residue was purified by column chromatography on silica gel with hexane:DCM (9.5:0.5, v/v) as eluent to yield (3-bromophenyl)(3-(dibenzo[b,d]furan-4-yl)phenyl)diphenylsilane (4.4 g, 64%) as a white solid.

reactant | dibenzo[b,d]furan-4-yl boronic acid | 11.79 mmol, 2.5 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | bis(3-bromo-phenyl)diphenylsilane | 29.5 mmol, 14.57 g | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC(=CC=C1)Br | C24H18Br2Si
reactant | K2CO3 | 23.58 mmol, 3.26 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.118 mmol, 0.136 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-bromophenyl)(3-(dibenzo[b,d]furan-4-yl)phenyl)diphenylsilane | 4.4 g, 64% | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC(=CC=C1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C36H25BrOSi
